US05959107
A mixture of sodium 5-isoquinolinesulfinate 100 mg (0.5 mmol), 4-fluoronitrobenzene 70 mg (0.5 mmol), ethylene glycol 0.1 ml and ethyleneglycoldiethylether 0.1 ml was heated and refluxed for 3.5 hours. Water was added to the reaction mixture, and the solution was extracted with ethyl acetate, the organic layer washed with a saturated sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was recrystallized from methanol to give 5-(4-nitrophenylsulfonyl)isoquinoline 30 mg (20.3%).

reactant | sodium 5-isoquinolinesulfinate | 0.5 mmol, 100 mg | C1=NC=CC=2C(=CC=CC12)S(=O)[O-].[Na+]
reactant | 4-fluoronitrobenzene | 0.5 mmol, 70 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ethylene glycol | 0.1 ml | C(CO)O | C2H6O2
solvent | Water | O | H2O
product | 5-(4-nitrophenylsulfonyl)isoquinoline | 30 mg, 20.3% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)C1=C2C=CN=CC2=CC=C1 | C15H10N2O4S
